US06900215B2
A mixture of 2-bromo-4-nitrotoluene (3 g, 13.0 mmol) and pyridine-3-boronic acid-1,3-propanediol cyclic ester (2.72 g, 16.7 mmol) in EtOH (30 ml) and toluene (30 ml) together with 2N Na2CO3 solution (13.9 ml) was degassed with a stream of N2 for 10 min. Tetrakis(triphenylphosphine)palladium(0) (0.3 g, 0.26 mmol) was added and the reaction heated at reflux for 4 h. The mixture was concentrated under reduced pressure to remove the organic solvents and water (100 ml) was added. The organics were extracted with EtOAc (200 ml) and then washed with brine (75 ml), dried (MgSO4), and concentrated under reduced pressure while dry loading onto silica. The resulting crude residue was purified by column chromatography on silica, using 60% diethyl ether in hexane as the eluent, to yield 3-(2-methyl-5-nitrophenyl)pyridine (2.87 g, 99%): δH (360 MHz, CDCl3) 2.38 (3H, s), 7.36-7.50 (2H, m), 7.67 (1H, dt, J 7.9 and 1.9), 8.10 (1H, d, J 2.4), 8.61 (1H, d, J 1.8), 8.67 (1H, dd, J 4.8 and 1.5).

reactant | 2-bromo-4-nitrotoluene | 13.0 mmol, 3 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | pyridine-3-boronic acid-1,3-propanediol cyclic ester | 16.7 mmol, 2.72 g | B1(OCCCO1)C2=CN=CC=C2 | C8H10BNO2
reactant | Na2CO3 | 2N, 13.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.26 mmol, 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-methyl-5-nitrophenyl)pyridine | 2.87 g, 99% | CC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=NC=CC1 | C12H10N2O2
